US04775674
A mixture of ethyl 4-[3-formyl-4-nitrophenoxy]butanoate (2.00 g, 7.1 mmol), hydantoin (0.71 g, 7.1 mmol), and anhydrous sodium acetate (0.58 g, 7.1 mmol) and acetic anhydride (20 mL) was heated at reflux for 1 hour. Upon cooling, H2O was added and the mixture extracted with dichloromethane. The organic portion was washed with water, evaporated, and the residue dissolved in a solution of methanol (20 mL) and 4N NaOH (30 mL). After stirring for 1 hour, the mixture was acidified to pH=2 by addition of 2N HCl. The precipitate was collected and triturated with MeOH/CH2Cl2 to afford 4-[[4-nitro-3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]phenyl]oxy]butanoic acid (0.88 g, 37%). An analytical sample was prepared by crystallization from DMF/H2O to give gold plates, m.p. 181°-184° C.

reactant | ethyl 4-[3-formyl-4-nitrophenoxy]butanoate | 7.1 mmol, 2.00 g | C(=O)C=1C=C(OCCCC(=O)OCC)C=CC1[N+](=O)[O-] | C13H15NO6
reactant | hydantoin | 7.1 mmol, 0.71 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | sodium acetate | 7.1 mmol, 0.58 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | H2O | O | H2O
product | 4-[[4-nitro-3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]phenyl]oxy]butanoic acid | 0.88 g, 37% | [N+](=O)([O-])C1=C(C=C(C=C1)OCCCC(=O)O)C=C1C(NC(N1)=O)=O | C14H13N3O7
